US04010177
In the manner given in Preparation 39, 8-chloro-1-(chloromethyl)-6-(2,6-difluorophenyl)-4H-s-triazolo-[4,3-a][1,4]benzodiazepine, potassium iodide and propylallylamine in tetrahydrofuran are reacted to give 8-chloro-1-[(allylpropylamino)methyl]-6-(2,6-difluorophenyl)-4H-s-triazolo[4,3-a][1,4]benzodiazepine. Preparation 45 8-Nitro-1-[(allylpropylamino)methyl]-6-phenyl-4H-s-triazolo[4,3-a][1,4]benzodiazepine

reactant | 8-chloro-1-(chloromethyl)-6-(2,6-difluorophenyl)-4H-s-triazolo-[4,3-a][1,4]benzodiazepine | ClC=1C=CC2=C(C(=NCC=3N2C(=NN3)CCl)C3=C(C=CC=C3F)F)C1 | C17H10Cl2F2N4
reactant | potassium iodide | [I-].[K+]
reactant | propylallylamine | C(CC)C=CCN | C6H13N
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 8-chloro-1-[(allylpropylamino)methyl]-6-(2,6-difluorophenyl)-4H-s-triazolo[4,3-a][1,4]benzodiazepine | ClC=1C=CC2=C(C(=NCC=3N2C(=NN3)CNCCCCC=C)C3=C(C=CC=C3F)F)C1 | C23H22ClF2N5
